US04616009
To a solution of 9 g of N-(1-benzyl-4-piperidyl)-1-butyl-5-hydroxy-2-methylindole-3-carboxamide in 100 ml of methanol were added 5 g of an 18% hydrochloric acid in ethanol and 4 g of 10% palladium carbon, and the mixture was subjected to catalytic hydrogenation at atmospheric pressure for 6 hours. After the catalyst was filtered off, the filtrate was concentrated under reduced pressure. The residue was crystallized with ethyl acetate and the resulting crystals were recrystallized from ethanol to give 4 g of 1-butyl-5-hydroxy-2-methyl-N-(4-piperidyl)indole-3-carboxamide hydrochloride, melting at 164°-168° C.

reactant | N-(1-benzyl-4-piperidyl)-1-butyl-5-hydroxy-2-methylindole-3-carboxamide | 9 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C1=C(N(C2=CC=C(C=C12)O)CCCC)C | C26H33N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | palladium carbon | 4 g | [C].[Pd]
product | 1-butyl-5-hydroxy-2-methyl-N-(4-piperidyl)indole-3-carboxamide hydrochloride | 4 g | Cl.C(CCC)N1C(=C(C2=CC(=CC=C12)O)C(=O)NC1CCNCC1)C | InChI=1S/C19H27N3O2.ClH/c1-3-4-11-22-13(2)18(16-12-15(23)5-6-17(16)22)19(24)21-14-7-9-20-10-8-14;/h5-6,12,14,20,23H,3-4,7-11H2,1-2H3,(H,21,24);1H
